US04344945
1-Benzyl-4-[N-(o-aminomethylphenyl)-amino]piperidine
In this reference example, the mixture of 13.6 g of anthranilamide, 18.9 g of 1-benzyl-4-piperidone, 1.0 g of p-toluene-sulfonic acid monohydrate and 200 ml of benzene is refluxed in a Dean Stark apparatus for 6 hours to distil off water. The resultant suspension of the Schiff-base is concentrated. The residue is mixed with 250 ml of dry dioxane to form a suspension. Separately, 100 ml of dry dioxane and 12.4 g of lithium aluminum hydride are mixed. The above Schiff-base suspension is added little by little to the mixture with stirring without cooling. The mixture is stirred for one hour and then refluxed with heating for 18 hours. The reaction solution is cooled to room temperature and poured little by little into 1.3 l of ice water. The resultant suspension is poured little by little into a funnel previously coated with a filter aid and subjected to suction filtration. The cake on the funnel is washed with 500 ml of chloroform and filtered. The organic layer is washed with water, dried and concentrated to obtain 22.9 g of a crude product. The crude product is recrystallized from hot ethanol to obtain 18.7 g of the desired product.

reactant | anthranilamide | 13.6 g | C(C=1C(N)=CC=CC1)(=O)N | C7H8N2O
reactant | 1-benzyl-4-piperidone | 18.9 g | C(C1=CC=CC=C1)N1CCC(CC1)=O | C12H15NO
reactant | benzene | 200 ml | C1=CC=CC=C1 | C6H6
reactant | lithium aluminum hydride | 12.4 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
catalyst | p-toluene-sulfonic acid monohydrate | 1.0 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | dioxane | 100 ml | O1CCOCC1 | C4H8O2
product | 1-Benzyl-4-[N-(o-aminomethylphenyl)-amino]piperidine | 18.7 g | C(C1=CC=CC=C1)N1CCC(CC1)NC1=C(C=CC=C1)CN | C19H25N3
